US07855202B2
2-(3,5-Dimethyl-1H-pyrazol-1-yl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine
A solution of 6-(3-fluoropyridin-4-yl)-2-hydrazino-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine (0.05 g, 0.15 mmol), pentane-2,4-dione (0.016 mL, 0.16 mmol) and hydrogen chloride aqueous solution in ethanol (1 mL) was heated in a sealed tube at 80° C. for 16 hours. The acidic pH was neutralized and then the solvent was evaporated and the crude mixture was purified by reverse phase chromatography (water/acetonitrile) to give the title compound (0.015 g, 25% of yield).

reactant | 6-(3-fluoropyridin-4-yl)-2-hydrazino-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.15 mmol, 0.05 g | FC=1C=NC=CC1C=1C=C2C(=NC1C=1C=NC=CC1)NC(=N2)NN | C16H12FN7
reactant | pentane-2,4-dione | 0.16 mmol, 0.016 mL | CC(CC(C)=O)=O | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-(3,5-Dimethyl-1H-pyrazol-1-yl)-6-(3-fluoropyridin-4-yl)-5-pyridin-3-yl-3H-imidazo[4,5-b]pyridine | 0.015 g, 25% | CC1=NN(C(=C1)C)C1=NC=2C(=NC(=C(C2)C2=C(C=NC=C2)F)C=2C=NC=CC2)N1 | C21H16FN7
